US07968581B2
Step 1: 4-[2,5-Dioxo-4-(4-fluorophenyl)-4-[(2-propenyloxy)methyl]-3-(2-propynyl)imidazolidin-1-yl]-2-trifluoromethylbenzonitrile
To a solution of 0.42 g of 4-[2,5-dioxo-4-(4-fluorophenyl)-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile in 3 mL of DMF, 160 mg of potassium carbonate and 0.2 mL of propargylbromide (80% solution in toluene) are added. The mixture is stirred at room temperature for 4 hours under argon atmosphere. Then 0.04 mL of propargylbromide (80% solution in toluene) is added and the mixture is stirred 1 hour at room temperature, evaporated to dryness, diluted with water and brine and extracted with ethyl acetate. The organic layer is dried over sodium sulfate filtered and evaporated.

reactant | 4-[2,5-dioxo-4-(4-fluorophenyl)-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | 0.42 g | O=C1N(C(C(N1)(COCC=C)C1=CC=C(C=C1)F)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C21H15F4N3O3
reactant | potassium carbonate | 160 mg | C([O-])([O-])=O.[K+].[K+]
reactant | propargylbromide | 0.2 mL | C(C#C)Br | C3H3Br
reactant | propargylbromide | 0.04 mL | C(C#C)Br | C3H3Br
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-[2,5-Dioxo-4-(4-fluorophenyl)-4-[(2-propenyloxy)methyl]-3-(2-propynyl)imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | O=C1N(C(C(N1CC#C)(COCC=C)C1=CC=C(C=C1)F)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C24H17F4N3O3
